US07078540B1
In the same manner as in Reference Example 1, ethyl 6-[N-(2,4-difluorophenyl)sulfamoyl]-1-cyclohexene-1-carboxylate (1 g) and (4-methoxyphenyl)methanethiol (893 mg) were reacted to give ethyl 6-[(4-methoxybenzyl)-sulfanyl]-1-cyclohexene-1-carboxylate (848 mg) as a colorless oil.

reactant | ethyl 6-[N-(2,4-difluorophenyl)sulfamoyl]-1-cyclohexene-1-carboxylate | 1 g | FC1=C(C=CC(=C1)F)NS(=O)(=O)C1CCCC=C1C(=O)OCC | C15H17F2NO4S
reactant | (4-methoxyphenyl)methanethiol | 893 mg | COC1=CC=C(C=C1)CS | C8H10OS
product | ethyl 6-[(4-methoxybenzyl)-sulfanyl]-1-cyclohexene-1-carboxylate | 848 mg | COC1=CC=C(CSC2CCCC=C2C(=O)OCC)C=C1 | C17H22O3S
